US05877317
A mixture of (-)-(isochroman-1-yl)acetone (LXXXIV, 0.73 g), ammonium acetate (1.48 g), methanol (2.5 ml), and THF (2.5 ml) is stirred for 25 min and then acetic acid (1.5 ml) and sodium cyanoborohydride (0.48 g) are added. After stirring for 2 hr, the mixture is concentrated and the residue is stirred with dichloromethane and sodium hydroxide (4N). The mixture is extracted with dichloromethane and washed with saline/sodium hydroxide (1N). The organic phase is separated and dried over sodium sulfate to give 2-[(-)-isochroman-1-yl]-(±)-1-methylethylamine.

reactant | (-)-(isochroman-1-yl)acetone | 0.73 g | C1(OCCC2=CC=CC=C12)CC(C)=O | C12H14O2
reactant | ammonium acetate | 1.48 g | C(C)(=O)[O-].[NH4+]
reactant | methanol | 2.5 ml | CO | CH4O
reactant | sodium cyanoborohydride | 0.48 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 2-[(-)-isochroman-1-yl]-(±)-1-methylethylamine | C1(OCCC2=CC=CC=C12)CC(C)N | C12H17NO
